US08703742B2
3-Ethoxy-6-fluoro-2-hydroxy-benzaldehyde
To a solution of 6-fluoro-2,3-dihydroxy-benzaldehyde (1.00 g, 6.40 mmol) in dry DMSO (10 mL) was added NaOBut (1.23 g, 12.81 mmol) and ethyl bromide (0.77 g, 7.04 mmol) under N2 and stirred at RT for 18 h. The resultant mixture was diluted with water, acidified to pH ˜6 with 2N.HCl and extracted with EtOAc (4×25 mL). Combined organic layers were washed with water and brine and dried over MgSO4. Filtration and removal of the solvent under reduced pressure provided 1.05 g (5.70 mmol, 89%) of the title compound as yellow solid. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 10.24 (s, 1H), 7.04 (dd, J=8.8, 5.3 Hz, 1H), 6.61-6.50 (m, 1H), 4.09 (q, J=7.0 Hz, 3H), 1.46 (t, J=7.0 Hz, 3H); 19F NMR (376 MHz, CHLOROFORM-d) δ ppm −132.19-−132.15 (m, 1F).

reactant | 6-fluoro-2,3-dihydroxy-benzaldehyde | 6.40 mmol, 1.00 g | FC1=CC=C(C(=C1C=O)O)O | C7H5FO3
reactant | ethyl bromide | 7.04 mmol, 0.77 g | C(C)Br | C2H5Br
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-Ethoxy-6-fluoro-2-hydroxy-benzaldehyde | 5.70 mmol, 1.05 g, 89% | C(C)OC=1C(=C(C=O)C(=CC1)F)O | C9H9FO3
